US06245778B1
4-iso-Propyloxy-3-trifluoromethylbenzoic acid
Methyl 3-bromo-4-iso-propyloxybenzoate (828 mg; 3.03 mmol) was dissolved in DMF (25 ml) and treated with potassium trifluoroacetate (922 mg; 6.06 mmol), copper (I) iodide (1.15 g; 6.06 mmol) and toluene (50 ml). The resulting mixture was heated at reflux for 1.5 h under Dean and Stark conditions with removal of ca 50 ml of distillate. The resulting mixture was heated at reflux for 18 h then cooled to room temperature, before being poured into a mixture of Et2O (100 ml) and HO (100 ml). The two-phase mixture was stirred at room temperature for 0.5 h then filtered through Celite. The two phases in the filtrate were separated, the aq. phase further extracted with Et2O (50 ml) and the organic extracts combined, washed with saturated, aq. Na2S2O3, H2O, saturated brine, dried (MgSO4) and evaporated to dryness under reduced pressure to give a brown oil. This brown oil was dissolved in MeOH (ca 20 ml) and treated with 2M aq. sodium hydroxide solution (2 ml; 4 mmol) and the resulting solution heated at reflux for 3h. The volatiles were removed under reduced pressure and the residue partitioned between EtOAc and H2O. The phases were separated, the aq. phase acidified to pH1 with 2M hydrochloric acid in the presence of EtOAc and the phases separated. The aq. phase was further extracted with EtOAc, the extracts combined, washed with H2O, saturated brine, dried (MgSO4) and evaporated to dryness underreduced pressure to give the title compound as a white solid. (671 mg; 89%).

reactant | Methyl 3-bromo-4-iso-propyloxybenzoate | 3.03 mmol, 828 mg | BrC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13BrO3
reactant | potassium trifluoroacetate | 6.06 mmol, 922 mg | FC(C(=O)[O-])(F)F.[K+]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 4 mmol, 2M, 2 ml | [OH-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | MeOH | ca 20 ml | CO | CH4O
catalyst | copper (I) iodide | 6.06 mmol, 1.15 g | [Cu]I
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | 4-iso-Propyloxy-3-trifluoromethylbenzoic acid | C(C)(C)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C11H11F3O3
